US03953500
Five g. of o-benzoyl-β-phenylpropionic acid, 13 g. of anhydrous aluminum chloride and 1.3 g. of sodium chloride are admixed together and heated at 160°C for 1 hour. After cooling, water is added to the mixture, followed by extraction with chloroform. The extract is washed with a 5 % aqueous solution of sodium bicarbonate and water in that order and, then, dried. The solvent is distilled off under reduced pressure and the residue is dissolved in ethanol. The solution is decolorized with activated carbon and recrystallized from ethanol. The procedure yields 4-benzoylindan-1-one as crystals melting at 86°-88°C.

reactant | o-benzoyl-β-phenylpropionic acid | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)CCC(=O)O | C16H14O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | 4-benzoylindan-1-one | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)=O | C16H12O2
